US04105776
1-[3-(benzylthio)-2-methylpropanoyl]-L-proline tert. butyl ester (7.8 g.) is dissolved in a mixture of anisole (55 ml.) and trifluoroacetic acid (110 ml.). After one hour storage at room temperature, the solvent is removed in vacuo and the residue is dissolved in ether, washed several times with saturated sodium chloride, dried over magnesium sulfate and evaporated to dryness in vacuo to yield 1-[3-(benzylthio)-2-methylpropanoyl]-L-proline. Rf 0.5 (Silica gel, Benzene/acetic acid 3:1) Rf 0.5. (Silica gel, Methyl-ethylketone/acetic acid/pyridine/water 14:1:2:1).

reactant | 1-[3-(benzylthio)-2-methylpropanoyl]-L-proline tert. butyl ester | 7.8 g | C(C)(C)(C)OC([C@H]1N(CCC1)C(C(CSCC1=CC=CC=C1)C)=O)=O | C20H29NO3S
solvent | anisole | 55 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | trifluoroacetic acid | 110 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 1-[3-(benzylthio)-2-methylpropanoyl]-L-proline | C(C1=CC=CC=C1)SCC(C(=O)N1[C@H](C(=O)O)CCC1)C | C16H21NO3S
